US04054652
Step A: Preparation of 2-amino-4,5-dihydro-4-ethoxy-6H-1,3-thiazine
A mixture of 10 g. of thiourea, 50 ml. of β-chloropropionaldehyde diethyl acetal, 75 ml. of absolute ethanol, and 2 g. of potassium iodide was refluxed for 2 days. The solvent was evaporated, and the residue was partitioned between water and ether. The aqueous phase was extracted twice more with ether, basified with sodium carbonate and extracted 4 times with chloroform. The chloroform was concentrated to dryness, and the residue was thoroughly extracted with ether. The ether extracts were evaporated to a small volume which deposited 6.88 g. of crystalline 2-amino-4,5-dihydro-4-ethoxy-6H-1,3-thiazine.

reactant | thiourea | NC(=S)N | CH4N2S
reactant | β-chloropropionaldehyde diethyl acetal | C(C)OC(CCCl)OCC | C7H15ClO2
reactant | potassium iodide | [I-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4,5-dihydro-4-ethoxy-6H-1,3-thiazine | NC=1SCCC(N1)OCC | C6H12N2OS
